US07622501B2
ethyl (2Z)-4-({[2,3-bis(nitrooxy)propoxy]carbonyl}oxy)-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoate
To a 0° C. solution of 454 mg of (2Z)-4-({[2,3-bis(nitrooxy)propoxy]carbonyl}oxy)-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoic acid in 20 mL of THF was added excess diazoethane in diethylether until crude NMR revealed complete conversion to ethyl ester. Evaporation of the solvent followed by flash chromatography of the crude residue over silica gel (30-90% EtOAc/hexane) afforded 420 mg of the title compound as a clear colourless oil. 1H NMR (500 MHz, acetone-d6): δ 7.80 (d, 2H), 7.49 (d, 2H), 7.23-7.18 (m, 3H), 7.14-7.08 (m, 2H), 5.79-5.73 (m, 1H), 5.35 (s, 2H), 5.05 (dd, 1H), 4.85 (dd, 1H), 4.64 (dd, 1H), 4.47 (dd, 1H), 4.31 (q, 2H), 3.08 (s, 3H), 1.29 (t, 3H).

reactant | (2Z)-4-({[2,3-bis(nitrooxy)propoxy]carbonyl}oxy)-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoic acid | 454 mg | [N+](=O)([O-])OC(COC(=O)OC\C(=C(/C(=O)O)\C1=CC=CC=C1)\C1=CC=C(C=C1)S(=O)(=O)C)CO[N+](=O)[O-] | C21H20N2O13S
reactant | diazoethane | [N+](=[N-])=CC | C2H4N2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | diethylether | C(C)OCC | C4H10O
product | ethyl (2Z)-4-({[2,3-bis(nitrooxy)propoxy]carbonyl}oxy)-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoate | 420 mg | [N+](=O)([O-])OC(COC(=O)OC\C(=C(/C(=O)OCC)\C1=CC=CC=C1)\C1=CC=C(C=C1)S(=O)(=O)C)CO[N+](=O)[O-] | C23H24N2O13S
